US07579469B2
To a solution of 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane (0.29 g) and 1,2-dihydroindazol-3-one (0.17 g) in anhydrous dimethylsulfoxide (1 mL) was added sodium bis(trimethylsilyl)amide (1.0M in tetrahydrofuran, 1.0 mL). After 14 days, the reaction mixture was diluted with ethyl acetate and washed twice with water. The organic phase was dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by preparative TLC (eluted with 1% ethanol-methylene chloride) to give 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1,2-dihydroindazol-3-one as a white solid (91 mg), m.p. 141° C.-144° C.

reactant | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl]-2-trifluoromethyloxirane | 0.29 g | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
reactant | 1,2-dihydroindazol-3-one | 0.17 g | N1NC(C2=CC=CC=C12)=O | C7H6N2O
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 1.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1,2-dihydroindazol-3-one | 91 mg | FC=1C=CC(=C(C1)C(CC(CN1NC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)OC | C21H22F4N2O3
